US07504403B2
2-Imino-hexahydro-pyrimidin-5-ol hydrochloride:
A mixture of 2-hydroxy -1,3-diaminopropane (9.80 g, 108 mmol) and guanidine hydrochloride (10.4 g, 108 mmol) in a 100 mL RBF was heated at 140° C. under nitrogen for 5 h. The reaction mixture, while under vigorous stirring, was let cooled to 100° C. whereby a mixture of iPrOH (5 mL) and CH3CN (5 mL) were added, resulting in the formation of a slurry. After cooled to room temperature, the mixture was filtered and the solid was washed with additional CH3CN (total 30 mL). The solid was further dried under vacuum to yield a white solid. 1H NMR (400 MHz, D2O): 4.21 (m, 1 H), 3.34 (dt, J 15.2, 2.8, 2H), 3.22 (dt, J 15.2, 2.8).

reactant | 2-hydroxy -1,3-diaminopropane | 108 mmol, 9.80 g | OC(CN)CN | C3H10N2O
reactant | guanidine hydrochloride | 108 mmol, 10.4 g | Cl.NC(=N)N
reactant | iPrOH | 5 mL | CC(C)O | C3H8O
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | 2-Imino-hexahydro-pyrimidin-5-ol hydrochloride | Cl.N=C1NCC(CN1)O | InChI=1S/C4H9N3O.ClH/c5-4-6-1-3(8)2-7-4;/h3,8H,1-2H2,(H3,5,6,7);1H
